US04254262
In a reactor, 100 ml of chlorobenzene and 100 ml of water were charged and 95.3 g (0.375 mole) of 4-(4-trifluoromethylphenoxy)phenol, 73.7 g (0.412 mole) of 4-bromo-2-pentenoate, 78.0 g (0.56 mole) of potassium carbonate and 1.1 g (0.00375 mole) of tributylethylammonium bromide were added. The mixture was refluxed with stirring for 6 hours. The reaction mixture was cooled to the room temperature and conc. hydrochloric acid was added to the reaction mixture with stirring to be acidic. The water phase was separated and the organic phase was washed with water and chlorobenzene was distilled off at 100° C. under a reduced pressure of 0.02 to 0.05 mmHg to obtain 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoic acid. The yield was 91.2%.

reactant | 4-(4-trifluoromethylphenoxy)phenol | 0.375 mole, 95.3 g | FC(C1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O2
reactant | 4-bromo-2-pentenoate | 0.412 mole, 73.7 g | BrC(C=CC(=O)[O-])C
reactant | potassium carbonate | 0.56 mole, 78.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | tributylethylammonium bromide | 0.00375 mole, 1.1 g | [Br-].C(CCC)[N+](CC)(CCCC)CCCC
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | chlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoic acid | yield was 91.2% | FC(C1=CC=C(OC2=CC=C(OC(C=CC(=O)O)C)C=C2)C=C1)(F)F | C18H15F3O4
